data/polar.json
{"reaction_name": "Michael addition", "rsmi": "[O-:1][C:18](=[CH:2][c:10]1[cH:14][cH:6][cH:25][cH:7][cH:15]1)[O:24][CH2:26][CH3:13].[O:3]=[N+:22]([O-:11])[c:19]1[cH:4][cH:8][c:12]([CH:20]=[CH:16][N+:17]([O-:21])=[O:23])[cH:9][cH:5]1>>[O:1]=[C:18]([CH:2]([c:10]1[cH:14][cH:6][cH:25][cH:7][cH:15]1)[CH:20]([c:12]1[cH:8][cH:4][c:19]([N+:22](=[O:3])[O-:11])[cH:5][cH:9]1)[CH:16]=[N+:17]([O-:21])[O-:23])[O:24][CH2:26][CH3:13]", "epd": [["LP-/Pi+", [1], [18, 1]], ["Pi-/Sigma+", [2, 18], [2, 20]], ["Pi-/Pi+", [20, 16], [16, 17]], ["Pi-/LP+", [17, 23], [23]]]}
{"reaction_name": "Fmoc protection", "rsmi": "[N:10]([CH3:18])([H:21])[H:22].[cH:1]1[cH:5][cH:3][c:12]2[c:13]([cH:19]1)[CH:16]([CH2:7][O:8][C:15]([Cl:9])=[O:17])[c:14]1[c:11]-2[cH:4][cH:6][cH:2][cH:20]1>>[Cl:9][H:21].[cH:1]1[cH:5][cH:3][c:12]2[c:13]([cH:19]1)[CH:16]([CH2:7][O:8][C:15]([N:10]([CH3:18])[H:22])=[O:17])[c:14]1[c:11]-2[cH:4][cH:6][cH:2][cH:20]1", "epd": [["LP-/Sigma+", [10], [10, 15]], ["Pi-/LP+", [15, 17], [17]], ["LP-/Pi+", [17], [15, 17]], ["Sigma-/LP+", [9, 15], [9]], ["LP-/Sigma+", [9], [9, 21]], ["Sigma-/LP+", [10, 21], [10]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[CH3:1][C:5](=[C:2]=[N-:12])[c:13]1[cH:16][cH:20][cH:25][cH:21][cH:17]1.[cH:3]1[cH:10][cH:4][c:6]2[c:11]([o+:7][c:9](-[c:23]3[cH:18][cH:14][cH:24][cH:15][cH:19]3)[cH:8][cH:22]2)[cH:26]1>>[CH3:1][C:5]([C:2]#[N:12])([c:13]1[cH:16][cH:20][cH:25][cH:21][cH:17]1)[CH:22]1[c:6]2[cH:4][cH:10][cH:3][cH:26][c:11]2[O:7][C:9]([c:23]2[cH:18][cH:14][cH:24][cH:15][cH:19]2)=[CH:8]1", "epd": [["LP-/Pi+", [12], [2, 12]], ["Pi-/Sigma+", [5, 2], [5, 22]], ["Pi-/Pi+", [22, 8], [8, 9]], ["Pi-/LP+", [9, 7], [7]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH:1]([C:19](=[O:20])[c:22]1[cH:11][cH:31][c:21]([N:30]([CH3:23])[CH3:24])[cH:32][cH:12]1)=[S:33]([CH3:14])[CH3:15].[O:2]=[C:28]1[N:6]([CH3:25])[C:27](=[O:8])[N:7]([CH3:26])[C:29](=[O:3])[C:16]1=[CH:18][c:9]1[cH:34][cH:4][c:17]([O:13][CH3:10])[cH:5][cH:35]1>>[CH:1]([CH:18]([c:9]1[cH:34][cH:4][c:17]([O:13][CH3:10])[cH:5][cH:35]1)[c:16]1[c:28]([O-:2])[n:6]([CH3:25])[c:27](=[O:8])[n:7]([CH3:26])[c:29]1=[O:3])([C:19](=[O:20])[c:22]1[cH:11][cH:31][c:21]([N:30]([CH3:23])[CH3:24])[cH:32][cH:12]1)[S+:33]([CH3:14])[CH3:15]", "epd": [["Pi-/Sigma+", [1, 33], [1, 18]], ["Pi-/Pi+", [18, 16], [16, 28]], ["Pi-/LP+", [28, 2], [2]]]}
{"reaction_name": "Riley oxidation", "rsmi": "[CH2:1]=[CH:2][CH2:4][H:5].[C:8]([CH3:9])([CH3:10])([CH3:11])[O:7][O:3][H:12].[O:13]=[Se:6]=[O:14]>>[CH2:1]=[CH:2][CH2:4][O:3][H:5].[C:8]([CH3:9])([CH3:10])([CH3:11])[O:7][H:12].[O:13]=[Se:6]=[O:14]", "epd": [["Sigma-/Sigma+", [3, 7], [3, 4]], ["Sigma-/Sigma+", [4, 5], [3, 5]], ["Sigma-/Sigma+", [3, 12], [7, 12]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[O:1]=[S:26](=[O:2])([N:22]([F:17])[S:25](=[O:3])(=[O:4])[c:35]1[cH:6][cH:28][cH:12][cH:31][cH:9]1)[c:36]1[cH:7][cH:29][cH:13][cH:30][cH:8]1.[cH:5]1[cH:18][cH:10][c:24]([C:20](=[C:14]2[N:15]([CH3:33])[C:21]([CH3:32])=[C:37]([CH3:34])[S:23]2)[O:27][CH3:16])[cH:11][cH:19]1>>[O:1]=[S:26](=[O:2])([N-:22][S:25](=[O:3])(=[O:4])[c:35]1[cH:6][cH:28][cH:12][cH:31][cH:9]1)[c:36]1[cH:7][cH:29][cH:13][cH:30][cH:8]1.[cH:5]1[cH:18][cH:10][c:24]([C:20]([c:14]2[n+:15]([CH3:33])[c:21]([CH3:32])[c:37]([CH3:34])[s:23]2)([F:17])[O:27][CH3:16])[cH:11][cH:19]1", "epd": [["LP-/Pi+", [15], [14, 15]], ["Pi-/Sigma+", [20, 14], [20, 17]], ["Sigma-/LP+", [17, 22], [22]]]}
{"reaction_name": "Michael–Dieckmann sequence", "rsmi": "[CH2:1]=[CH:2][C:3](=[O:4])[O:5][CH3:6].[CH3:7][C:8](=[O:9])[C-:10]([H:18])[C:11](=[O:12])[O:13][CH3:14].[O:15]([H:16])[H:17]>>[CH3:7][C:8](=[O:9])[C:10]([H:18])([C:11](=[O:12])[O:13][CH3:14])[CH2:1][CH:2]([H:16])[C:3](=[O:4])[O:5][CH3:6].[O-:15][H:17]", "epd": [["LP-/Sigma+", [10], [1, 10]], ["Pi-/Sigma+", [1, 2], [2, 16]], ["Sigma-/LP+", [15, 16], [15]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[CH3:1][C:5](=[C:4]=[N-:6])[c:7]1[cH:8][cH:13][cH:15][cH:14][cH:9]1.[cH:2]1[cH:3][cH:12][cH:17][cH+:10][cH:16][cH:11]1>>[CH3:1][C:5]([C:4]#[N:6])([c:7]1[cH:8][cH:13][cH:15][cH:14][cH:9]1)[CH:10]1[CH:16]=[CH:11][CH:2]=[CH:3][CH:12]=[CH:17]1", "epd": [["LP-/Pi+", [6], [4, 6]], ["Pi-/Sigma+", [5, 4], [5, 10]]]}
